US08536203B2
A stirred suspension of 4-hydroxy-3-methoxy-5-nitrobenzoic acid (2.00 g, 9.38 mmol) in thionyl chloride (8.2 mL) was heated at 80° C. for two hours. The excess of thionyl chloride was removed under vacuum. The resulting yellow solid was dissolved in DMA (15.4 mL), then (Z)-2,5-dichloro-N′-hydroxy-4,6-dimethylnicotinimidamide (2.636 g, 11.26 mmol) and pyridine (6.2 mL) were added. The red solution was heated to 120° C. for 2.5 hours. The reaction mixture was cooled to room temperature and poured into a mixture of cc HCl (10 ml) and ice (80 g), then stirred for thirty minutes. The yellow precipitate was filtered off, washed with water and dried under vacuum. Recrystallization from dichloro-methane-iso-propanol mixture afforded 2.42 g (62%) of 4-(3-(2,5-dichloro-4,6-dimethylpyridin-3-yl)-1,2,4-oxadiazol-5-yl)-2-methoxy-6-nitrophenol as yellow crystalline.

reactant | 4-hydroxy-3-methoxy-5-nitrobenzoic acid | 9.38 mmol, 2.00 g | OC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])OC | C8H7NO6
reactant | (Z)-2,5-dichloro-N′-hydroxy-4,6-dimethylnicotinimidamide | 11.26 mmol, 2.636 g | ClC1=C(/C(/N)=N/O)C(=C(C(=N1)C)Cl)C | C8H9Cl2N3O
reactant | pyridine | 6.2 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 10 ml | Cl | ClH
solvent | thionyl chloride | 8.2 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-(3-(2,5-dichloro-4,6-dimethylpyridin-3-yl)-1,2,4-oxadiazol-5-yl)-2-methoxy-6-nitrophenol | 2.42 g, 62% | ClC1=NC(=C(C(=C1C1=NOC(=N1)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC)C)Cl)C | C16H12Cl2N4O5
